US08124776B2
To a 500 mL flask (fitted with a stir bar) add diethyl-carbamic acid 2-(4-methoxy-phenyl)-1-oxo-3-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-1H-1Lambda*4*-benzo[b]thiophen-6-yl ester (8.46 mmoles; 5.00 g) and methanol (50.00 mL) at ambient temperature. To the resulting yellow slurry, add 36.5% hydrogen chloride (67.71 mmoles; 5.82 mL; 6.76 g) dropwise over 10 minutes to form a yellow solution. Then add solid sodium thiosulfate (25.39 mmoles; 4.06 g). Stir the resulting yellow mixture at 30° C. for 30 minutes and then quench with 100 mL of EtOAc and 200 mL of 0.5 N NaOH. Transfer the mixture to a separation funnel, separate the organic layer, and wash the organic layer with 100 mL of water and 50 mL of brine. Dry over sodium sulfate and concentrate which results in a thick oil. Dissolve the thick oil into 20 mL of t-butyl methyl ether (MTBE) and then add 50 mL of heptane. Stir the white slurry at room temperature overnight. Collect the white solid by filtration and wash with 50 mL of heptane. Dry in a vacuum oven at 50° C. for 5 hours and obtain 3.6 g of diethyl-carbamic acid 2-(4-methoxy-phenyl)-3-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-benzo[b]thiophen-6-yl ester as a white solid. MS: [M+H]: 575.2.

reactant | diethyl-carbamic acid 2-(4-methoxy-phenyl)-1-oxo-3-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-1H-1Lambda*4*-benzo[b]thiophen-6-yl ester | 8.46 mmoles, 5.00 g | COC1=CC=C(C=C1)C1=C(C2=C(S1=O)C=C(C=C2)OC(N(CC)CC)=O)OC2=CC=C(C=C2)OCCN2CCCCC2 | C33H38N2O6S
reactant | methanol | 50.00 mL | CO | CH4O
reactant | hydrogen chloride | 67.71 mmoles, 5.82 mL, 6.76 g | Cl | ClH
reactant | sodium thiosulfate | 25.39 mmoles, 4.06 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | heptane | 50 mL | CCCCCCC | C7H16
solvent | t-butyl methyl ether | 20 mL | COC(C)(C)C | C5H12O
product | diethyl-carbamic acid 2-(4-methoxy-phenyl)-3-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-benzo[b]thiophen-6-yl ester | 3.6 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC(N(CC)CC)=O)OC2=CC=C(C=C2)OCCN2CCCCC2 | C33H38N2O5S
